US09301951B2
N1-(2-(4-((2-methoxyethyl)carbamoyl)piperazin-1-yl)ethyl)-N3-(2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-(piperidin-1-yl)phenyl)-N1-methylisophthalamide
Into a 50-mL round-bottom flask, was placed a solution of N1-(2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-(piperidin-1-yl)phenyl)-N3-methyl-N3-(2-(piperazin-1-yl)ethyl)isophthalamide (100 mg, 0.14 mmol, 1.00 equiv) in dichloromethane (3 mL), triethylamine (42 mg, 0.42 mmol, 3.00 equiv). This was followed by the addition of 4-nitrophenyl carbonochloridate (31 mg, 0.15 mmol, 1.10 equiv) dropwise with stirring at 0° C. The resulting solution was stirred for 40 min at 25° C. The resulting solution was diluted with 3 mL of sodium bicarbonate. The resulting solution was extracted with 2×5 mL of dichloromethane and the organic layers combined. The resulting mixture was washed with 1×5 mL of water and 2×5 mL of Brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 110 mg (90%) of 4-nitrophenyl 4-(2-(N-methyl-3-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)benzamido)ethyl)piperazine-1-carboxylate as a yellow solid.

reactant | N1-(2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-(piperidin-1-yl)phenyl)-N3-methyl-N3-(2-(piperazin-1-yl)ethyl)isophthalamide | 0.14 mmol, 100 mg, 1.00 equiv | FC(C=1C=C(CNC(=O)C2=CC(=NC=C2)C2=C(C=CC(=C2)N2CCCCC2)NC(C2=CC(C(=O)N(CCN3CCNCC3)C)=CC=C2)=O)C=CC1)(F)F | C40H44F3N7O3
reactant | triethylamine | 0.42 mmol, 42 mg, 3.00 equiv | C(C)N(CC)CC | C6H15N
reactant | 4-nitrophenyl carbonochloridate | 0.15 mmol, 31 mg, 1.10 equiv | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
reactant | sodium bicarbonate | 3 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N1-(2-(4-((2-methoxyethyl)carbamoyl)piperazin-1-yl)ethyl)-N3-(2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-(piperidin-1-yl)phenyl)-N1-methylisophthalamide | COCCNC(=O)N1CCN(CC1)CCN(C(C1=CC(C(=O)NC2=C(C=C(C=C2)N2CCCCC2)C2=NC=CC(=C2)C(NCC2=CC(=CC=C2)C(F)(F)F)=O)=CC=C1)=O)C | C44H51F3N8O5
